US09303044B2
2-amino-N-(3-(1-hydroxyethyl)-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide
The compound of this example is prepared as described in Example 13 above except that the acetyl group of tert-butyl 4-(2-(3-acetyl-5-(2-((tert-butoxycarbonyl)amino)-acetamido)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate is further reduced to tert-butyl 4-(2-(3-(2-((tert-butoxycarbonyl)amino)acetamido)-5-(1-hydroxyethyl)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate using sodium borohydride. The resulting product is then deprotected as described in Step 6 of Example 1. 1H NMR (400 MHz, DMSO-d6) δ 10.73 (s, 1H), 8.95-8.80 (br.s., 2H), 8.16 (t, J=1.8 Hz, 1H), 8.16-8.07 (br.s., 2H), 7.76 (t, J=1.8 Hz, 1H), 7.59 (s, J=1.8 Hz, 1H), 5.61 (s, 1H), 5.50-5.45 (br.s., 1H), 4.83 (q, J=6.7 Hz, 1H), 3.81 (s, 2H), 3.78 (t, J=5.2 Hz, 4H), 3.19 (t, J=5.2 Hz, 4H), 1.36 (d, J=6.7 Hz, 3H); LC/MS: tR=2.417 min; HRMS: m/z (M+H+)=(Calculated for C19H24N7O3S=430.1661).

reactant | tert-butyl 4-(2-(3-acetyl-5-(2-((tert-butoxycarbonyl)amino)-acetamido)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | C(C)(=O)C=1C=C(C=C(C1)NC(CNC(=O)OC(C)(C)C)=O)C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C29H37N7O7S
reactant | tert-butyl 4-(2-(3-(2-((tert-butoxycarbonyl)amino)acetamido)-5-(1-hydroxyethyl)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=C(C=C(C1)C(C)O)C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C29H39N7O7S
reactant | sodium borohydride | [BH4-].[Na+]
product | 2-amino-N-(3-(1-hydroxyethyl)-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)acetamide | NCC(=O)NC1=CC(=CC(=C1)C1=NN2C(=NC(=CC2=O)N2CCNCC2)S1)C(C)O | C19H23N7O3S
